US06545049B1
A 200 mL round-bottomed flask equipped with stir bar was charged with a solution of phenol (10.2 g, 108 mmol) and 2,4-dichloro-2,4-dimethylhexane (21.8 g, 119 mmol) in dichloromethane (50 mL) at 0° C. Aluminum chloride (1.44 g, 10.8 mmol) was added slowly to the solution until the spontaneous reflux had subsided and the solution became pale orange in color. After stirring 10-15 min at 0° C., the reaction was poured into ice water (30 mL) and the layers were separated. The aqueous layer was extracted with EtOAc (2×30 mL). The combined organic extracts were washed with water and brine, dried (Na2SO4), filtered, and concentrated to give a pale yellow/white solid. Recrystallization from hexanes gave the product 5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalen-2-ol 18.25 g (83%) as a white crystalline solid: 1H-NMR (400MHz, CDCl3) δ 7.17 (d, J=8.5 Hz, 1H, Ar-H), 6.76 (d, J=3.0 Hz, 1Hz, Ar-H), 6.62 (dd, J=8.5 Hz, 3.0 Hz, 1H, Ar-H), 4.52 (s, 1H, OH), 1.65 (s, 4H, 2CH2), 1.26 (s, 6H, 2CH3), 1.24 (s, 6H, 2CH3).

reactant | phenol | 108 mmol, 10.2 g | C1(=CC=CC=C1)O | C6H6O
reactant | 2,4-dichloro-2,4-dimethylhexane | 119 mmol, 21.8 g | ClC(C)(CC(CC)(C)Cl)C | C8H16Cl2
reactant | Aluminum chloride | 10.8 mmol, 1.44 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalen-2-ol | 18.25 g, 83% | CC1(C=2C=CC(=CC2C(CC1)(C)C)O)C | C14H20O
